US05869509
3-[[5-Chloro-4-(2,3-dihydro-2-oxo-1H-imidazol-1-yl)-2-methoxyphenyl]-methyl]-5-[4-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-2(3H)-one XX76 : X=O)
3-[(4-Amino-5-chloro-2-methoxyphenyl)methyl]-5-[4-(trifluoromethyl) phenyl]-1,3,4-oxadiazol-2(3H)-one (1.14 g, 2.9 mmol) and triethylamine (1.0 ml, 6.8 mmol) were taken up in anhydrous THF (20 ml) and transferred dropwise by cannula into a 20% solution of phosgene in toluene at 0° C. under N2. The reaction was stirred 2.5 h at 24° C., diluted with diethylether (1 vol), and filtered through a celite plug. Concentrated by rotary evaporation to gave a solid which was dissolved in dichloromethane (50 ml) under N2 and aminoacetaldehyde (0.42 ml, 2.9 mmol) was added. The solution was stirred 3 h and concentrated to remove solvent. The residue was taken up in 25 ml of formic acid (88%) and stirred 18 h at 24° C. The formic acid was removed by rotary evaporation the residue taken up in ethyl acetate, washed with saturated NaHCO3 solution and brine, and dried. Concentration on SiO2, and elution with 45% THF/benzene gave 850 mg (65%). mp 201°-202° C.; IR(KBr, ν=cm-1) 3414, 1792, 1694, 1330, 1236, 1136; 1H NMR (300 MHz, CDCl3) δ3.86 (3H, s), 4.97 (2H, s), 6.38 (2H, br, s), 6.99 (1H, s), 7.40 (1H, s), 7.71 (2H, d, J=8.4 Hz), 7.94 (2H, d, J=8.2 Hz), 10.28 (1H, br, s); MS(ESI)m/z: 465 (M--H-)

reactant | 3-[(4-Amino-5-chloro-2-methoxyphenyl)methyl]-5-[4-(trifluoromethyl) phenyl]-1,3,4-oxadiazol-2(3H)-one | 2.9 mmol, 1.14 g | NC1=CC(=C(C=C1Cl)CN1C(OC(=N1)C1=CC=C(C=C1)C(F)(F)F)=O)OC | C17H13ClF3N3O3
reactant | triethylamine | 6.8 mmol, 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | aminoacetaldehyde | 2.9 mmol, 0.42 ml | NCC=O | C2H5NO
reactant | KBr | [K+].[Br-]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | diethylether | C(C)OCC | C4H10O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-[[5-Chloro-4-(2,3-dihydro-2-oxo-1H-imidazol-1-yl)-2-methoxyphenyl]-methyl]-5-[4-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-2(3H)-one | ClC=1C(=CC(=C(C1)CN1C(OC(=N1)C1=CC=C(C=C1)C(F)(F)F)=O)OC)N1C(NC=C1)=O | C20H14ClF3N4O4
